US04734125
1.03 ml (0.011 mol) of acetic anhydride and 0.56 ml (0.013 mol) of 98 percent strength nitric acid are added successively to 4.2 g (0.011 mol) of 5-chloroacetamido-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole in 20 ml of glacial acetic acid at 15° C. After stirring for 6 hours, the mixture is concentrated in vacuo, the residue is taken up in 100 ml of dichloromethane and washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and freed of solvent in vacuo. 4.1 g (89% of theory) of 5-chloroacetamido-4-nitro-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole of melting point 130° C.-133° C. are obtained.

reactant | acetic anhydride | 0.011 mol, 1.03 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 5-chloroacetamido-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.011 mol, 4.2 g | ClCC(=O)NC1=CC=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H7Cl3F3N3O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-chloroacetamido-4-nitro-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 4.1 g, 89% | ClCC(=O)NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-] | C12H6Cl3F3N4O3
